US04649221
N,N'-Dihydroxy-N,N'-dibenzyl-p-xylylenediamine
The procdure of Example 1 is repeated using 5.59 g of benzylhydroxylamine, 5.99 g of p-xylylene dibromide and 6.0 g of anhydrous sodium carbonate. The reaction product is recrystallized from acetonitrile to give the product as a white solid; m.p. 160°-163° C.

reactant | benzylhydroxylamine | 5.59 g | C(C1=CC=CC=C1)NO | C7H9NO
reactant | p-xylylene dibromide | 5.99 g | C1(=CC=C(C=C1)CBr)CBr | C8H8Br2
reactant | sodium carbonate | 6.0 g | C([O-])([O-])=O.[Na+].[Na+]
product | N,N'-Dihydroxy-N,N'-dibenzyl-p-xylylenediamine | ON(CC1=CC=C(C=C1)CN(CC1=CC=CC=C1)O)CC1=CC=CC=C1 | C22H24N2O2
